US07659297B2
(rac.) 5-{[6-Chloro-2,5-dihydroxy-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-isoquinolin-1(2H)-one
40 mg (0.083 mmol) of (rac.) 5-{[6-chloro-2-hydroxy-5-methoxy-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-isoquinolin-1(2H)-one is mixed at room temperature with 0.8 ml of a 1 molar solution of boron tribromide in dichloromethane, and it is stirred for four hours at room temperature. Since starting material is still present, another 0.8 ml of boron tribromide solution is added, and it is stirred for 16 hours at room temperature. The reaction mixture is mixed drop by drop at −30° C. with saturated sodium bicarbonate solution (pH 8). The batch is mixed with ethyl acetate, and the cold bath is removed. After 10 minutes of vigorous stirring at room temperature, the batch is extracted twice with ethyl acetate. The organic phases are washed with water and with brine, dried, and the residue is chromatographed on silica gel (mobile solvent:methanol/dichloromethane) after the solvent is spun off. 19.9 mg (51.2%) of the desired compound is isolated.

reactant | (rac.) 5-{[6-chloro-2-hydroxy-5-methoxy-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-isoquinolin-1(2H)-one | 0.083 mmol, 40 mg | ClC=1C(=C2C(CC(C(C2=CC1C)NC1=C2C=CNC(C2=CC=C1)=O)(C(F)(F)F)O)(C)C)OC | C24H24ClF3N2O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 0.8 ml | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | pH 8 | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (rac.) 5-{[6-Chloro-2,5-dihydroxy-4,4,7-trimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-isoquinolin-1(2H)-one | 19.9 mg, 51.2% | ClC=1C(=C2C(CC(C(C2=CC1C)NC1=C2C=CNC(C2=CC=C1)=O)(C(F)(F)F)O)(C)C)O | C23H22ClF3N2O3
